US07781478B2
A solution of 6-methoxyindole (10.0 g, 68.0 mmol) in DMF (120 mL) is cooled to 0° C. and treated with chlorosulfonyl isocyanate (7.72 mL, 88.4 mmol). After the addition, the reaction mixture is stirred at this temperature for 1 h. The dark solution is poured into ice water (600 mL) and the light brown solid is collected by filtration, washed with additional H2O and dried to afford 9.9 g (85%) of 6-methoxy-1H-indole-3-carbonitrile as a light brown solid. Step B: To a solution of 6-methoxy-1H-indole-3-carbonitrile (9.9 g, 57.6 mmol) in DMF (150 mL) is added NaH (60% dispersion in mineral oil, 3.45 g, 86.3 mmol). The reaction mixture is stirred for 15 min and then ethyl iodide (5.53 mL, 69.1 mmol) is added and the mixture is stirred at room temperature overnight. The reaction mixture is then diluted with H2O and extracted with EtOAc (2×). The organic phases are washed with H2O (3×) and saturated NaCl and then dried and concentrated to a semi-solid. The crude product is purified via column chromatography on silica gel (200 g) using CH2Cl2/hexanes (50-100%) as eluent to yield 6-methoxy-1-ethyl-1H-indole-3-carbonitrile as a tan solid.

reactant | 6-methoxyindole | 68.0 mmol, 10.0 g | COC1=CC=C2C=CNC2=C1 | C9H9NO
reactant | chlorosulfonyl isocyanate | 88.4 mmol, 7.72 mL | ClS(=O)(=O)N=C=O | CClNO3S
solvent | DMF | 120 mL | CN(C)C=O | C3H7NO
product | 6-methoxy-1H-indole-3-carbonitrile | 9.9 g, 85% | COC1=CC=C2C(=CNC2=C1)C#N | C10H8N2O
